US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-[trans-3,4-(methylenedioxy)cinnamyl]thiophene-3-sulfonamide was prepared in the same manner as described in Example 1 by reaction of 3-chlorosulfonyl-2-[trans-3,4-(methylenedioxy)cinnamyl]thiophene with 5-amino-4-bromo-3-methylisoxazole. The crude product was purified by HPLC resulting in a 33% yield, m.p. 147°-149° C.

reactant | 3-chlorosulfonyl-2-[trans-3,4-(methylenedioxy)cinnamyl]thiophene | ClS(=O)(=O)C1=C(SC=C1)C\C=C\C1=CC2=C(C=C1)OCO2 | C14H11ClO4S2
reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-[trans-3,4-(methylenedioxy)cinnamyl]thiophene-3-sulfonamide | 33% yield | BrC=1C(=NOC1NS(=O)(=O)C1=C(SC=C1)C\C=C\C1=CC2=C(C=C1)OCO2)C | C18H15BrN2O5S2
